US07932272B2
2,3-Dihydro-benzofuran-5carbaldehyde
To a solution of 5-bromo-2,3-dihydro-benzofuran described in Preparation Example 173 (15.0 g, 75.4 mmol) in tetrahydrofuran (300 mL) was added n-butyl lithium (31.2 mL, 82.9 mmol) at −78° C. The reaction solution was stirred for 85 minutes at −78° C., then, N,N-dimethytformamide (6.42 mL, 82.9 mmol) was added thereto, followed by stirring at room temperature for 1 hour. 1N Hydrochloric acid was added to the reaction solution, which was then extracted with ethyl acetate, and the organic layer was washed with brine. Anhydrous magnesium sulfate was added to the organic layer for drying, which was then filtered, the filtrate was concentrated in vacuo, the residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1), and the title compound (10.1 g, 90%) was obtained as a pale yellow oil.

reactant | 5-bromo-2,3-dihydro-benzofuran | BrC=1C=CC2=C(CCO2)C1 | C8H7BrO
reactant | n-butyl lithium | 82.9 mmol, 31.2 mL | C(CCC)[Li]
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 2,3-Dihydro-benzofuran-5carbaldehyde | 10.1 g, 90% | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
